US06429214B1
N-But-3-ynyl-imidodicarbonic acid di-tert-butyl ester
A solution of di-tert-butyliminodicarboxylate (17.4 g, 80.1 mmol) and triphenylphosphine (21.0 g, 80.1 mmol) in tetrahydrofuran (100 mL) was treated dropwise simultaneously with 3-butyn-1-ol (6.0 mL, 79 mmol) and diethylazodicarboxylate (12.6 mL, 80.0 mmol) during 5-10 min. The solution was heated to reflux for 24 h, cooled to room temperature and concentrated in vacuo to give a yellow oil (57.4 g, incomplete reaction). Flash chromatography (500 g silica; 0.5%, then 1%, then 2%, then 4% EtOAc-hexane) gave the title compound (5.3 g, 25% yield based on starting 3-butyn-1-ol) as a white solid.

reactant | di-tert-butyliminodicarboxylate | 80.1 mmol, 17.4 g | CC(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphine | 80.1 mmol, 21.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-butyn-1-ol | 79 mmol, 6.0 mL | C(CC#C)O | C4H6O
reactant | diethylazodicarboxylate | 80.0 mmol, 12.6 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | N-But-3-ynyl-imidodicarbonic acid di-tert-butyl ester | 5.3 g, 25% yield | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CCC#C | C14H23NO4
